US07923450B2
b) [8-(3-Chloro-benzenesulfonyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from crude 2-(3-chloro-benzenesulfonyl)-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone (108 mg, 0.33 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (111 mg, 0.30 mmol) using in analogous manner the procedure described in example 45b). Obtained as a yellow solid (46 mg, 30%). MS ISP (m/e): 510.3/512.2 (100/39) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.59 (s, 1H), 8.39 (s, 1H), 7.66-7.70 (m, 3H), 7.58 (d, 1H), 7.47-7.52 (m, 2H), 7.02-7.04 (m, 2H), 6.96 (d, 1H), 4.89 (m, 1H), 3.68 (s, 3H), 2.51-2.65 (m, 2H), 2.16 (s, 3H), 2.00-2.16 (m, 3H), 1.76 (m, 1H).

reactant | 2-(3-chloro-benzenesulfonyl)-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone | 0.33 mmol, 108 mg | ClC=1C=C(C=CC1)S(=O)(=O)C1C(/C(/CCC1)=C/N(C)C)=O | C15H18ClNO3S
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.30 mmol, 111 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [8-(3-Chloro-benzenesulfonyl)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC=1C=C(C=CC1)S(=O)(=O)C1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C25H24ClN5O3S
